US07582769B2
3-{2-[3-Cyclohexyl-3-(trans-4-ethoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
Prepared in a similar manner to {2-[3-cyclohexyl-3-(trans-4-methoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid via cyclohexyl-(trans-4-ethoxymethyl-cyclohexyl)-amine and (2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester to give the title compound.

reactant | {2-[3-cyclohexyl-3-(trans-4-methoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)COC | C20H31N3O4S2
reactant | cyclohexyl-(trans-4-ethoxymethyl-cyclohexyl)-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)COCC | C15H29NO
reactant | (2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-Cyclohexyl-3-(trans-4-ethoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)[C@@H]1CC[C@H](CC1)COCC | C22H35N3O4S2
